US08809536B2
3-Benzo[1,3]dioxol-5-yl-1-[(S)-1-(2,3-dihydrobenzo[1,4]dioxin-2-yl)methyl]-piperidine
(3-Benzo[1,3]dioxol-5-ylpiperidin-1-yl-(R)-2,3-dihydrobenzo[1,4]dioxin-2-ylmethanone (285 mg, 0.77 mmol) was dissolved in dry DMF (2.5 ml) and 1 M BH3THF (3.10 ml, 3.10 mmol) was slowly added under a nitrogen atmosphere. The reaction mixture was stirred for 4.5 h at RT and then cooled to 0° C. Water was slowly added and the mixture basified with 2.5 M NaOH and extracted three times with EtOAc. The combined organic phases were dried (Na2SO4), filtered and evaporated to dryness. The crude product was dissolved in methanol (25 ml) and 5 M HCl (1.5 ml) was slowly added. The mixture was stirred for 1 h at RT and then at 60° C. for 2 h. The reaction mixture was evaporated to dryness, redissolved in EtOAc and washed twice with 1 M Na2CO3 and water. The combined organic phases were dried (Na2SO4), filtered and evaporated to dryness to give 228 mg of the title compound.

reactant | 3-Benzo[1,3]dioxol-5-ylpiperidin-1-yl-(R)-2,3-dihydrobenzo[1,4]dioxin-2-ylmethanone | 0.77 mmol, 285 mg | O1COC2=C1C=CC(=C2)C2CN(CCC2)C(=O)[C@H]2COC1=C(O2)C=CC=C1 | C21H21NO5
reactant | BH3THF | 3.10 mmol, 1 M, 3.10 ml | B.C1CCOC1
reactant | Water | O | H2O
reactant | NaOH | 2.5 M | [OH-].[Na+]
solvent | DMF | 2.5 ml | CN(C)C=O | C3H7NO
product | 3-Benzo[1,3]dioxol-5-yl-1-[(S)-1-(2,3-dihydrobenzo[1,4]dioxin-2-yl)methyl]-piperidine | 228 mg | O1COC2=C1C=CC(=C2)C2CN(CCC2)C[C@H]2COC1=C(O2)C=CC=C1 | C21H23NO4
